US08058276B2
Step 6.3: 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-benzo[d]isothiazole-3-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide
A mixture of 72 mg (0.44 mMol) 2-amino-4,6-dichloropyrimidine, 143 mg (0.40 mMol) 6-hydroxy-benzo[d]isothiazole-3-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide and 280 mg (1.32 mMol) K3PO4 in 2 ml NMP is stirred for 6 h at 70° C. Then the mixture is diluted with EtOAc and water, the aq. layer separated off and extracted twice with EtOAc. The organic phases are washed twice with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; CH2Cl2→CH2Cl2/EtOH 9:1) gives the title compound: MS: [M−1]=482/484; TLC(CH2Cl2): Rf=0.12.

reactant | 2-amino-4,6-dichloropyrimidine | 0.44 mMol, 72 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 6-hydroxy-benzo[d]isothiazole-3-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | 0.40 mMol, 143 mg | FC1=C(C=C(C=C1)NC(=O)C1=NSC2=C1C=CC(=C2)O)C(F)(F)F | C15H8F4N2O2S
reactant | K3PO4 | 1.32 mMol, 280 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-benzo[d]isothiazole-3-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | FC1=C(C=C(C=C1)NC(=O)C1=NSC2=C1C=CC(=C2)OC2=NC(=NC(=C2)Cl)N)C(F)(F)F | C19H10ClF4N5O2S
